US06297250B1
2,6-Di-(2-hydroxyethylamino)-4,8-dibenzylaminopyrimidopyrimidine (NU3101)
A mixture of 2,6-dichloro-4,8-di-(benzylamino)pyrimidopyrimidine (0.32 g, 0.78 mmol) and ethanolamine (2 ml) was stirred at 150° C. for 12 h. The reaction mixture was cooled to room temperature and water (15 ml) was added, after which the mixture was stirred for a further 20 min, filtered, washed with water, and the collected solid dried in vacuo. Purification by silica column chromatography (dichloromethane: methanol, 9:1) yielded the title compound (0.11 g, 31%) as a fluorescent yellow solid (Found: C, 61.0; H, 6.0; N, 23.7. C24H28N8O2.0.14CH2Cl2 requires C, 61.4; H, 5.6; N, 23.2); NMR data was as follows:

reactant | 2,6-dichloro-4,8-di-(benzylamino)pyrimidopyrimidine | 0.78 mmol, 0.32 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)NCC2=CC=CC=C2)N1)NCC1=CC=CC=C1 | C20H16Cl2N6
reactant | ethanolamine | 2 ml | C(O)CN | C2H7NO
solvent | water | 15 ml | O | H2O
product | 2,6-Di-(2-hydroxyethylamino)-4,8-dibenzylaminopyrimidopyrimidine | 0.11 g, 31% | OCCNC=1N=C(C2=C(C(=NC(=N2)NCCO)NCC2=CC=CC=C2)N1)NCC1=CC=CC=C1 | C24H28N8O2
